US08183275B2
To a solution of 4-[N′-(3,4-difluorobenzoyl)hydrazino]-4-oxo-butyric acid ethyl ester (590 mg, 1.96 mmol) and pyridine (474 μL, 5.88 mmol) in methylene chloride (25 mL) at −78° C. was added dropwise triflic anhydride (397 μL, 2.35 mmol) and the reaction was allowed to warm up to rt overnight. The reaction mixture was diluted with methylene chloride (100 mL), washed with 0.1 M HCl and brine, dried over sodium sulfate and concentrated to provide 3-[5-(3,4-difluorophenyl)-[1,3,4]oxadiazol-2-yl]propionic acid ethyl ester. 1H NMR (300 MHz, CDCl3) δ 7.89-7.77 (m, 2H), 7.31 (m, 1H), 4.19 (q, J=7.1 Hz, 2H), 3.24 (t, J=7.2 Hz, 2H), 2.92 (t, J=7.4 Hz, 2H), 1.27 (t, J=7.1 Hz, 3H).

reactant | 4-[N′-(3,4-difluorobenzoyl)hydrazino]-4-oxo-butyric acid ethyl ester | 1.96 mmol, 590 mg | C(C)OC(CCC(=O)NNC(C1=CC(=C(C=C1)F)F)=O)=O | C13H14F2N2O4
reactant | pyridine | 5.88 mmol, 474 μL | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 2.35 mmol, 397 μL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-[5-(3,4-difluorophenyl)-[1,3,4]oxadiazol-2-yl]propionic acid ethyl ester | C(C)OC(CCC=1OC(=NN1)C1=CC(=C(C=C1)F)F)=O | C13H12F2N2O3
